* =========================================================
* TASK 3 - SRAM Read Margin vs VDD
* =========================================================

.include 45nm_bulk.txt

.param VDD=1.1

Vdd vdd 0 'VDD'

* Wordline
Vwl_src wl_src 0 PULSE(0 'VDD' 1n 50p 50p 3n 10n)
Rwl wl_src wl 1

* SRAM cell
MP1 qb q  vdd vdd pmos W=0.15u L=0.045u
MN1 qb q  0   0   nmos W=0.20u L=0.045u

MP2 q  qb vdd vdd pmos W=0.15u L=0.045u
MN2 q  qb 0   0   nmos W=0.20u L=0.045u

* Access transistors
MA1 bl  wl q  0 nmos W=0.16u L=0.045u
MA2 blb wl qb 0 nmos W=0.16u L=0.045u

* Bitline capacitances
Cbl  bl  0 180f IC='VDD'
Cblb blb 0 180f IC='VDD'

* SRAM initial state
.ic v(q)=0 v(qb)='VDD'


.control

set method=gear
set reltol=1e-4
set abstol=1e-18
set vntol=1e-6

* =====================================================
* VDD = 1.10 V
* =====================================================
alterparam VDD=1.10
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r110="$&dv"
set m110="$&dvmv"

* =====================================================
* VDD = 1.05 V
* =====================================================
alterparam VDD=1.05
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r105="$&dv"
set m105="$&dvmv"

* =====================================================
* VDD = 1.00 V
* =====================================================
alterparam VDD=1.00
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r100="$&dv"
set m100="$&dvmv"

* =====================================================
* VDD = 0.95 V
* =====================================================
alterparam VDD=0.95
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r095="$&dv"
set m095="$&dvmv"

* =====================================================
* VDD = 0.90 V
* =====================================================
alterparam VDD=0.90
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r090="$&dv"
set m090="$&dvmv"

* =====================================================
* VDD = 0.85 V
* =====================================================
alterparam VDD=0.85
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r085="$&dv"
set m085="$&dvmv"

* =====================================================
* VDD = 0.80 V
* =====================================================
alterparam VDD=0.80
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r080="$&dv"
set m080="$&dvmv"

* =====================================================
* VDD = 0.75 V
* =====================================================
alterparam VDD=0.75
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r075="$&dv"
set m075="$&dvmv"

* =====================================================
* VDD = 0.70 V
* =====================================================
alterparam VDD=0.70
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r070="$&dv"
set m070="$&dvmv"

* =====================================================
* VDD = 0.65 V
* =====================================================
alterparam VDD=0.65
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r065="$&dv"
set m065="$&dvmv"

* =====================================================
* VDD = 0.60 V
* =====================================================
alterparam VDD=0.60
reset
tran 2p 4n uic
let diff=v(blb)-v(bl)
meas tran dv FIND diff AT=2n
let dvmv=dv*1000
set r060="$&dv"
set m060="$&dvmv"

* =====================================================
* =========================================================
* FINAL TASK 3 PLOT
* =========================================================

let vdd_plot = vector(11)
let dv_plot  = vector(11)

let vdd_plot[0] = 1.10
let vdd_plot[1] = 1.05
let vdd_plot[2] = 1.00
let vdd_plot[3] = 0.95
let vdd_plot[4] = 0.90
let vdd_plot[5] = 0.85
let vdd_plot[6] = 0.80
let vdd_plot[7] = 0.75
let vdd_plot[8] = 0.70
let vdd_plot[9] = 0.65
let vdd_plot[10] = 0.60

* Convert saved measurement strings back to numbers
let dv_plot[0] = $r110
let dv_plot[1] = $r105
let dv_plot[2] = $r100
let dv_plot[3] = $r095
let dv_plot[4] = $r090
let dv_plot[5] = $r085
let dv_plot[6] = $r080
let dv_plot[7] = $r075
let dv_plot[8] = $r070
let dv_plot[9] = $r065
let dv_plot[10] = $r060

let dv_mV = dv_plot*1000

plot dv_mV vs vdd_plot
.endc
.end